US06903114B2
(a) 6,7-Dimethoxy-8-nitro-isoquinoline
To a solution of 6,7-Dimethoxy-isoquinolinone (2.88 g) in sulphuric acid (20 ml) at 5-10° C. was added 2 M HNO3—H2SO4-solution (8 ml) and the reaction mixture stirred overnight at ambient temperature. The reaction mixture was poured into ice water, pH adjusted to 12 and the product extracted in methylene chloride. The methylene chloride phase was extracted with 1 M HCl , the pH of the aqueous phase adjusted to 12 and extracted into methylene chloride, dried and evaporated. Yield: 2.5 g.

reactant | 6,7-Dimethoxy-isoquinolinone | 2.88 g | COC=1C=C2C=CNC(C2=CC1OC)=O | C11H11NO3
reactant | HNO3 H2SO4 | 2 M, 8 ml | [N+](=O)(O)[O-].OS(=O)(=O)O
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7-Dimethoxy-8-nitro-isoquinoline | COC=1C=C2C=CN=CC2=C(C1OC)[N+](=O)[O-] | C11H10N2O4
